US07592457B2
5,7-dibromo-3-methyl-3-phenyl-1H-quinoline-2,4-dione
The objective compound was prepared by the same procedure for the example 1, using a 4,6-dibromo-2-(2-phenyl-propionyl amino)-benzoic acid methyl ester (1.00 g, 2.27 mmol) and LiHMDS (6.81 mmol, 1M THF solution). After normal workup, the pure objective compound (0.60 g, 65%) was obtained as yellow solid by a flash column chromatography (Hex:EtOAc=4:1): 1H NMR (200 MHz, CDCl3) δ 1.64 (s, 3H, CH3), 7.04 (d, J=1.6 Hz, 1H, ArH), 7.17-7.37 (m, 5H, ArH), 7.46 (d, J=1.6 Hz, 1H, ArH), 9.35 (br s, 1H, NH); m.p. 202-203° C.; MS(EI) m/e 409 [M+], 288, 132, 104; HRMS m/e cacld. for C16H11Br2NO2 406.9157, found 406.9161.

reactant | 4,6-dibromo-2-(2-phenyl-propionyl amino)-benzoic acid methyl ester | 2.27 mmol, 1.00 g | COC(C1=C(C=C(C=C1Br)Br)NC(C(C)C1=CC=CC=C1)=O)=O | C17H15Br2NO3
reactant | LiHMDS | 6.81 mmol, 1M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5,7-dibromo-3-methyl-3-phenyl-1H-quinoline-2,4-dione | 0.60 g, 65% | BrC1=C2C(C(C(NC2=CC(=C1)Br)=O)(C1=CC=CC=C1)C)=O | C16H11Br2NO2
